US07244730B2
(Step 6) 1-[8-(tert-Butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone
After adding 6 N aqueous sodium hydroxide (180 ml, 900 mmol) to a solution of the 1-[4-acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone (36.8 g, 134 mmol) in methanol (360 ml) under a nitrogen atmosphere, the mixture was stirred at 70° C. for 40 minutes. The methanol was distilled off under reduced pressure, and the precipitated crystals were filtered out and dried under reduced pressure to yield the title compound (30.6 g, 98.1% yield) as bright golden yellow crystals.

reactant | sodium hydroxide | 900 mmol, 6 N, 180 ml | [OH-].[Na+]
reactant | 1-[4-acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone | 134 mmol, 36.8 g | C(C)(=O)N1CCOC2=C1C=C(C=C2C(C)(C)C)C(C)=O | C16H21NO3
solvent | methanol | 360 ml | CO | CH4O
product | 1-[8-(tert-Butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone | 30.6 g, 98.1% yield | C(C)(C)(C)C1=CC(=CC=2NCCOC21)C(C)=O | C14H19NO2
